Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea 
 
Major Surgical or Invasive Procedure:
Multiple paracentesis
EGD on ___

 
History of Present Illness:
Mr. ___ is a ___ y/o M with PMH HCV cirrhosis, 
esophageal
varices s/p ligation on PPX, COPD, anxiety, chronic opioid use w
prior IV opioids, diabetes mellitus, who was pulled from an
apartment fire. He was unconscious by fire fighters but when
outside woke up but has been confused. Firemen came into his 
room
that was actually on fire, found patient on the floor. Patient
was pulled out, found to be confused, wheezing. Patient had O2
sats in the high ___ on non-rebreather. Patient remained
confused. Unable to provide history on arrival.

Initially plan for admission to ___ for unclear altered mental
status, possibly primary encephalopathy with secondary fire or
possible fire injury as patient was requiring 6L NC, however
based on clinical picture, ED team was then less concerned for
inhalation burns and pursued w/u for encephalopathy. Diagnostic
paracentesis was negative for SBP. He was found to have guaiac
positive stool on exam. 

Patient was then reevaluated in the ED and decision was made to
admit to the medical floor given his improving labs and mental
status returned back to baseline. He did not recall the events
leading to the fire and denied ETOH or illicits.

In the ED, initial vitals were: 92.1 84 17 100% Non-Rebreather 
 
Exam notable for:
Con: In no acute distress
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact, no oropharyngeal
burns, no circumferential neck burns
Resp: Tachypnea, diffuse wheezing
CV: Regular rate and rhythm, normal ___ and ___ heart sounds, 2+
distal pulses. Capillary refill less than 2 seconds.
Abd: Distended with fluid wave, guaiac positive brown stool
GU: No costovertebral angle tenderness
MSK: No deformity or edema
Skin: Pressure wounds on his back, no obvious ulceration or
burns, 0% body burn 
neuro: Altered, moving all extremities, cranial nerves grossly
intact

On reassessment: AOx3, no asterixis, abd tense, +fluid wave

Labs notable for:
___ 05:28PM BLOOD Type: ART pO2: 249* pCO2: 53* pH: 7.32*
___ 05:54PM BLOOD Type: ___ pO2: 24* pCO2: 70* pH: 7.26* 
___ 09:59PM BLOOD Type: ___ pO2: 35* pCO2: 51* pH: 7.37 
___ 06:15AM BLOOD Type: ___ pO2: 22* pCO2: 47* pH: 7.41 

___ 06:15AM BLOOD Lactate: 1.9 
___ 05:54PM BLOOD Lactate: 3.8* COHb: ___ MetHb: 1 O2Sat: 25
___ 05:28PM BLOOD Lactate: 3.6* Creat: 1.0 Na: 138 K: 4.6
Cl: 102 

___ 05:50PM BLOOD cTropnT: 0.02* 
___ 06:00AM BLOOD cTropnT: 0.04* 

___ 05:50PM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG
___ 11:16PM URINE bnzodzp: NEG barbitr: NEG opiates: POS*
cocaine: NEG amphetm: NEG oxycodn: NEG mthdone: POS* 

___ 05:50PM BLOOD WBC: 9.7 RBC: 3.80* Hgb: 12.3* Hct: 37.3*
MCV: 98 MCH: 32.4* MCHC: 33.0 RDW: 17.2* RDWSD: 61.8* Plt Ct:
105* 

___ 05:50PM BLOOD ALT: 39 AST: 76* CK(CPK): 796* AlkPhos:
250* TotBili: 6.6* DirBili: 2.9* IndBili: 3.7 

___ 06:00AM BLOOD ALT: 31 AST: 57* AlkPhos: 181* TotBili:
4.6* 

___ 06:06PM ASCITES TNC: 382* RBC: ___ Polys: 37* 
Lymphs:
13* Monos: 2* Mesothe: 5* Macroph: 43* 
___ 06:06PM ASCITES TotPro: 0.7 Glucose: 194 

___ 6:06 pm PERITONEAL FLUID      PERITONEAL FLUID. 
   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES.

      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 

Patient Given:
___ 18:25 IH Ipratropium-Albuterol Neb 1 NEB 
___ 18:25 IV MethylPREDNISolone Sodium Succ 80 mg  
___ 18:25 IV Pantoprazole 40 mg 

___ 08:00 SC Insulin 3 Units 
___ 11:52 PO/NG Lactulose 30 mL 
___ 11:52 PO/NG Morphine Sulfate ___ 15 mg 
___ 11:52 PO/NG Furosemide 80 mg 
___ 11:52 PO/NG Spironolactone 200 mg   
___ 13:05 SC Insulin 5 Units 

Vitals on Transfer:  98.0 87 145/60 18 98% 5L NC 

On the floor, patient reports he was in his apartment, watching
TV, then remembers smoke coming into the apartment, fell down
from the smoke bc it was disorienting, hit wooden sliding doors
and then stayed on the floor until firemen broke in and soaked
him with water. Didn't know what was going on for 10 minutes,
then they saw him. He denies feeling lightheaded or short of
breath prior to falling. His main complaint now is right knee
pain and he wants pain medicine for this. Says he needs right
knee replacement. He has a chronic cough twice a day that is
slightly increased from usual.

He says he knows about all of this because he is certified as an
addiction specialist.

Regarding his abdominal distension, he says his abdomen is 
bigger
than normal but not really. He has chronic pain, sharp RLQ, from
scar tissue which he says is from his small intestine. Doesn't
always follow low salt diet or fluid restriction. Says weight is
around 175. Used to be 200. Takes lactulose once a day. Takes
Nadolol but denies history of variceal bleed.

Has had no BRBPR or black tarry stools.  

Review of systems:  
(+) Per HPI  
 
Past Medical History:
DIABETES TYPE II                                                
GYNECOMASTIA                                                    
HEPATITIS C CIRRHOSIS                                           
CHRONIC KNEE PAIN                                               
PERIPHERAL VASCULAR DISEASE                                     
ANXIETY DISORDER NOS; MAJOR DEPRESSION, MODERATE                
MILD DIASTOLIC DYSFUNCTION                                       

ERYTHEMA ANNULARE CENTRIFIGUM                                   
CHRONIC LOWER BACK PAIN- DJD                                     

OSTEOPENIA                                                      
PANCREATIC LESION                                               
PORTAL VEIN THROMBOSIS                                          
BASAL CELL CARCINOMA                                            
HEPATITIS C                                                      

H/O ESOPHAGITIS                                                 
H/O ACTINIC KERATOSIS                                           
H/O PPD POSITIVE  - Per patient, never treated - Quantiferon 
Gold
negative                                              
H/O SPLENIC VEIN THROMBOSIS                                     
H/O COLONIC ADENOMA     
APPENDECTOMY                                                    
LEFT ELBOW FRACTURE REPAIR                                      
RIGHT HERNIA REPAIR                                             
BACK SURGERY                                                    
RIGHT KNEE SURGERIES                                            
- 2 per patient         
 
Social History:
___
Family History:
Mother   ___ ___  CHRONIC OBSTRUCTIVE                       
                      PULMONARY DISEASE                         

Father   ___ ___  MYOCARDIAL                                
                      INFARCTION                                

Sister                COLITIS 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vital Signs:  ___ 1420 Temp: 98.8 PO BP: 147/68 HR: 88 RR:
18 O2 sat: 97% O2 delivery: Ra 
General: Alert, oriented, no acute distress, muscle wasting  
HEENT: Sclerae mildly icteric, poor dentition, MMM, oropharynx
clear, EOMI, PERRL, neck supple, JVP not elevated
CV: distant heart sounds, Regular rate and rhythm, normal S1 +
S2, no murmurs, rubs, gallops  
Lungs: Diffuse coarse end-expiratory rhonchi, +/- wheeze  
Abdomen: Soft, non-tender, very distended, bowel sounds present,
no guarding  
GU: No foley  
Ext: Warm, severe b/l chronic venous stasis dermatitis, 2+
pulses, 1+ edema up to the buttocks  
Neuro: CNII-XII intact, normal strength and sensation, gait
deferred. He is unable to do the months of the year backwards 
but
AOx3. 

DISCHARGE PHYSICAL EXAM:
VITALS: Temp: 98.1 (Tm 98.4), BP: 123/67 (115-129/66-72), HR: 89
(89-97), RR: 18, O2 sat: 96% (93-98), O2 delivery: Ra, Wt: 
149.03
lb/67.6 kg 
HEENT: dentures in place
CV: RRR, no murmurs
PULM: CTAB 
ABD: moderately distended, soft, non-tender
EXT: severe stasis dermatitis changes, trace pretibial edema, 
WWP
 
Pertinent Results:
ADMISSION/IMPORTANT LABS:
===========================
___ 05:50PM BLOOD WBC-9.7 RBC-3.80* Hgb-12.3* Hct-37.3* 
MCV-98 MCH-32.4* MCHC-33.0 RDW-17.2* RDWSD-61.8* Plt ___
___ 05:50PM BLOOD Neuts-85.1* Lymphs-5.9* Monos-7.5 
Eos-0.9* Baso-0.1 Im ___ AbsNeut-8.27* AbsLymp-0.57* 
AbsMono-0.73 AbsEos-0.09 AbsBaso-0.01
___ 05:50PM BLOOD ___ PTT-29.2 ___
___ 06:02PM BLOOD ___
___ 06:40PM BLOOD Ret Aut-4.4* Abs Ret-0.14*
___ 05:50PM BLOOD Glucose-168* UreaN-47* Creat-1.1 Na-135 
K-4.8 Cl-98 HCO3-28 AnGap-9*
___ 05:50PM BLOOD ALT-39 AST-76* CK(CPK)-796* AlkPhos-250* 
TotBili-6.6* DirBili-2.9* IndBili-3.7
___ 05:50PM BLOOD Lipase-34
___ 05:50PM BLOOD cTropnT-0.02*
___ 06:00AM BLOOD CK-MB-11* MB Indx-3.4 cTropnT-0.04*
___ 06:02PM BLOOD CK-MB-8 cTropnT-0.02*
___ 05:50PM BLOOD Albumin-3.2* Calcium-9.4 Phos-5.2* Mg-2.3
___ 06:02PM BLOOD calTIBC-164* Ferritn-474* TRF-126*
___ 05:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:28PM BLOOD Type-ART pO2-249* pCO2-53* pH-7.32* 
calTCO2-29 Base XS-0 Intubat-NOT INTUBA
___ 05:28PM BLOOD Lactate-3.6* Creat-1.0 Na-138 K-4.6 
Cl-102
___ 05:54PM BLOOD Lactate-3.8*
___ 06:15AM BLOOD Lactate-1.9
___ 11:16PM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-POS*
___ 05:46AM URINE Hours-RANDOM UreaN-1048 Creat-86 Na-46 
K-40
___ 06:06PM ASCITES TNC-382* ___ Polys-37* 
Lymphs-13* Monos-2* Mesothe-5* Macroph-43*
___ 01:50PM ASCITES TNC-199* RBC-916* Polys-48* Bands-1* 
Lymphs-9* Monos-36* NRBC-1* Plasma-1* Mesothe-1* Macroph-3*
___ 02:44PM ASCITES TNC-141* RBC-356* Polys-3* Lymphs-32* 
___ Mesothe-8* Macroph-57*
___ 03:19PM ASCITES TNC-215* RBC-1315* Polys-7* Lymphs-24* 
Monos-51* Macroph-18*
___ 06:06PM ASCITES TotPro-0.7 Glucose-194
___ 01:50PM ASCITES TotPro-0.7 Albumin-0.3
___ 02:44PM ASCITES TotPro-0.7 Glucose-

DISCHARGE LABS
===============
___ 05:00AM BLOOD WBC-3.8* RBC-2.71* Hgb-8.9* Hct-27.1* 
MCV-100* MCH-32.8* MCHC-32.8 RDW-17.4* RDWSD-63.7* Plt Ct-31*
___ 05:00AM BLOOD ___ PTT-22.7* ___
___ 05:00AM BLOOD Glucose-234* UreaN-38* Creat-0.9 Na-131* 
K-4.9 Cl-95* HCO3-27 AnGap-9*
___ 05:00AM BLOOD ALT-36 AST-51* LD(LDH)-192 AlkPhos-243* 
TotBili-3.1*
___ 05:00AM BLOOD Calcium-8.8 Phos-2.6* Mg-2.2

IMAGING:
======
CXR ___ 
No acute cardiopulmonary abnormality 

CT HEAD ___
No acute intracranial process.

___ Imaging DUPLEX DOPP ABD/PEL 
1. Cirrhotic appearance of the liver without focal lesions. 
2. Patent hepatic vasculature with appropriate direction of 
flow. 
3. Portal hypertension demonstrated by splenomegaly and large 
volume ascites. 

___BD & PELVIS WITH CO 
1. Increased superior mesenteric vein thrombosis.  While 
nonocclusive, 
superior mesenteric vein is severely narrowed immediately 
proximal to the 
portal confluence. 
2. Chronic splenic, main portal, and right portal vein 
thrombosis is 
unchanged. 
3. Cirrhosis with evidence of portal hypertension including 
large volume 
ascites, esophageal varices, severe splenomegaly, and portal 
colopathy.

___ Gastroenterology EGD 
- Scarring was noted in the distal esophagus consistent with 
prior banding.
- Esophageal varices.
- Congestion, petechiae and mosaic mucosal pattern in the 
stomach fundus and stomach body compatible with mild portal 
hypertensive gastropathy.
- Normal mucosa in the whole examined duodenum

MICROBIOLOGY:
=============
__________________________________________________________
___ 3:19 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERITONEAL FLUID. 

   Fluid Culture in Bottles (Pending):    No growth to date. 
__________________________________________________________
___ 2:44 pm PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count, if 
applicable. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
__________________________________________________________
___ 1:50 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   Fluid Culture in Bottles (Final ___: 
      ESCHERICHIA COLI. 
      STREPTOCOCCUS SALIVARIUS SSP. SALIVARIUS. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------     8 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ 2 ___ ON ___ - 
___. 
      GRAM NEGATIVE ROD(S). 

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ (___ 
___. 
      GRAM NEGATIVE ROD(S). 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 
__________________________________________________________
___ 1:50 pm PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count, if 
applicable. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Mr. ___ is a ___ y/o M with PMH HCV cirrhosis, 
esophageal varices s/p ligation on PPX, COPD, anxiety, chronic 
opioid use w prior IV opioids, diabetes mellitus, who was pulled 
from apt fire and initially encephalopathic with acidemia, 
lactate elevation, and acute hypoxemic respiratory failure, with 
course c/b secondary bacterial peritonitis and ___, now 
resolved.

TRANSITIONAL ISSUES:
===================
[] Remove abdominal suture on ___
[] Follow up CBC, Chem-7 + Mg, and LFTs on ___
[] Discharged on spironolactone 50mg and Lasix 20mg, consider 
uptitration if building up fluid/ascites, or gaining weight
[] Discharged on lantus 37 units QPM and Humalog 4 units TID 
with meals. Please up-titrate insulin regimen as needed while at 
rehab
[] He needs a colonoscopy this year as outpatient per hepatology 
notes
[] ___ benefit from outpatient nutrition followup
[] Discharged on home morphine ___ at same regimen, held 
methadone throughout the admission and at discharge, last dose 3 
weeks prior per patient.
[] Continue morphine ___ 15mg q6h prn and taper as an outpatient 
by
PCP and psych (Dr. ___
[] Expected rehab stay < 30 days

Discharge weight: 67.6 kg (149.03 lb) 
Discharge Cr: 0.9
Discharge plt: 31
Discharge Na: 131

NEW MEDS: 
- Cefpodoxime Proxetil 200 mg PO/NG Q24H 
- Humalog 4 units TID with meals 

CHANGED MEDS:
- Furosemide 20 mg PO/NG DAILY from 80mg daily
- Glargine 37 Units Bedtime from 32 Units
- Spironolactone 50 mg PO/NG DAILY from 200 mg

STOPPED MEDS:
- ALPRAZolam 0.5 mg PO QHS:PRN anxiety 
- Methadone 5 mg PO TID 
- Nadolol 20 mg PO DAILY 
- Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 

ACUTE ISSUES:
==============
# Acute Mixed Hypoxemic/Hypercarbic Respiratory Failure
# Probable mild smoke inhalation injury 
Patient was pulled unconscious from a fire in his home. He was 
initially requiring nonrebreather, wheezing, on ___ NC in the 
ED and initial blood gases were concerning for both hypoxemic 
and hypercarbic respiratory failure. His prior blood gasses 
suggested against chronic hypercarbia. Initially, was planned 
for ICU admission. In ED, after he received IV steroids and 
nebulizer x1, improved both in terms of his acid/base status and 
his encephalopathy. Therefore, admitted to the general medicine 
floor, and was breathing comfortably on RA. ED had lower concern 
for smoke inhalation injury. Attempted to institute nebulizer 
treatments during admission, but patient declined.

# Encephalopathy 
Initially confused and altered in ED, then returned back to 
baseline but remained tangential in his speech and somewhat 
inattentive. Suspect related to inhalation rather than hepatic 
encephalopathy, though he is on chronic opioids and unclear if 
he may have overdosed. Did not require narcan in ED. Tox screen 
negative for all except opiates and methadone. He had no 
asterixis to suggestive hepatic encephalopathy.

# Abdominal Pain and Distension
# Ascites 
# Secondary bacterial peritonitis
Reported abdominal pain and distension, initially suspected from 
ascites as he seemed overall fluid overloaded despite reporting 
compliance with diuretics (had lower extremity edema to the 
buttocks as well). Has a history of chronic PVT and SVT. Does 
not follow low salt diet or fluid restriction at home. RUQUS 
showed large volume ascites. Paracentesis was done in ED, 
initially negative, but subsequent paracentesis with culture 
growing E. coli and strep salivarius (likely contaminant), 
thought to be potentially secondary bacterial peritonitis from 
bowel microperforation. He clinically appeared well. He 
completed Zosyn for a ___nd was switched to 
cefpodoxime for phrophylaxis at 200mg daily. Diuretics were held 
in the setting of ___, discussed below, and restarted at lower 
dose prior to discharge, as discussed below. Nutrition was 
consulted to emphasize adherence to 2g sodium diet and 2L fluid 
restriction. 

# ___ 
Cr peaked at 1.5 from baseline of 1.0. Improved with albumin 
100g ___, 60g ___. He was also given additional 25 g on ___ 
after paracentesis, and 25g on ___ for mildly low sodium. 
Spironolactone and Lasix were initially held, but restarted at 
50 and 20, respectively. He will continue this at discharge. 
Nadalol was held and should continue to be held at discharge.

# Decompensated HCV cirrhosis
# Esophageal varices s/p banding
He has cirrhosis ___ HCV (genotype 2, s/p Epclusa and ribavirin) 
c/b esophageal varices s/p ligation on Nadolol, recent banding 
___ for 2 cords of grade II varices in distal esophagus, 
portal hypertensive gastropathy, rectal varices, Hx HE on 
Lactulose, portal and splenic vein thromboses ___, chronic 
portal vein thrombosis ___, no longer on transplant list (too 
well). Concern for decompensated cirrhosis based on above 
(ascites, ___ and worsening LFTs. LFTs improved rapidly, 
suggesting that they were a change in setting of smoke 
inhalation/hypoxia. RUQUS with patent portal vessels and no 
acute cause for decompensation. Reported only taking Lactulose 
daily instead of TID as prescribed. For esophageal varices s/p 
ligation, EGD was done and revealed varices s/p banding, no 
further procedure required at this time. Nadalol was held at 
discharge given ___.

# Multiple abdominal venous thrombi
Has had thrombi in multiple areas on prior imaging as well. CT 
from ___ showing increased superior mesenteric vein thrombosis, 
and stable splenic, main portal, and right portal vein thrombi. 
Discussed with hepatology, since these are chronic, risk of
anticoagulation (especially with varcies) exceeds benefit. 
Anticoagulation was deferred.

# Thrombocytopenia, pancytopneia
Acute on chronic thrombocytopenia thought i/s/o decompensated 
cirrhosis, possible consumption from fall and guaiac + stool, 
and also could be worsened in setting of cefpodoxime 
prophylaxis. Patient 

# Coagulopathy 
# Appears Malnourished
INR 1.6 in ED, likely nutritional, improved with vitamin K 
challenge. Nutrition consulted.

# Guaiac positive stool
On rectal in ED, brown. Denies melena. Known rectal varices. 
Recent EGD with banding of esophageal varices. Not concerned for 
active GI bleed. EGD done in house revealing varices s/p 
banding. Needs a colonoscopy per hepatology notes. 

# Chronic pain on methadone and morphine
Patient methadone was stopped 3 week 
Complaining of knee pain and hip pain. Per patient, stopped 
methadone (takes this for chronic pain) three weeks prior to 
date of discharge due to the advice of Dr. ___. 
Last script filled ___. Patient was not given methadone 
during 15 day hospital stay, and tolerated this well. We will be 
discharging the patient without methadone and on morphine ___ 
15mg q6h prn (same as home dose), with plan to continue tapering 
as outpatient with PCP ___ psychiatrist Dr. ___.

# Elevated CK
Elevated CK 96 suspect related to his fall, though did not see 
any major signs of trauma. 

# Type 2 NSTEMI / Troponinemia
Mildly elevated troponin peaked at 0.04, mild initial CK-MB 
elevation but MB index normal. No ischemic changes on EKG, no 
chest pain or dyspnea, suspected ___ CK elevation

# Insomnia
Sleep has been poor due to cirrhosis for years. Sometimes takes 
alprazolam at night for this but not often. Trialed trazodone, 
held benzo and zolpidem for possible encephalopathy and these 
were stopped at discharge.

CHRONIC ISSUES:
================
# Anxiety/MDD/PTSD 
Outpatient followup. Psychiatry: Dr. ___ - SW: ___ - 
H/O polysubstance abuse, PTSD 

# IDDM
Continued home lantus 32u, uptitrated to 37U Qbedtime, ISS. 

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 45 mL PO TID 
2. ALPRAZolam 0.5 mg PO QHS:PRN anxiety 
3. Morphine Sulfate ___ 15 mg PO Q6H:PRN Pain - Moderate 
4. Nadolol 20 mg PO DAILY 
5. Spironolactone 200 mg PO DAILY 
6. Furosemide 80 mg PO DAILY 
7. Glargine 32 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
8. Methadone 5 mg PO TID 
9. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 200 mg PO/NG Q24H  
2.  Furosemide 20 mg PO DAILY  
3.  Glargine 37 Units Bedtime
Humalog 4 Units Breakfast
Humalog 4 Units Lunch
Humalog 4 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
4.  Spironolactone 50 mg PO DAILY  
5.  Lactulose 45 mL PO TID  
6.  Morphine Sulfate ___ 15 mg PO Q6H:PRN Pain - Moderate 
RX *morphine 15 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*8 Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___ and ___)
 
Discharge Diagnosis:
Primary:
acute hypoxemic/hypercarbic respiratory failure ___ smoke 
inhalation
toxic metabolic encephalopathy
cirrhosis decompensated by ascites and lower extremity edema
abnormal LFTs
coagulopathy
acute on chronic anemia and thrombocytopenia
abdominal pain
fall
type 2 nstemi 
guaiac positive stool

Secondary:
insomnia
anxiety, depression
insulin dependent diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came the hospital after being pulled out of a fire at your 
home. You likely suffered some smoke inhalation injury to your 
lungs but you recovered quickly.

You also were found to have significant volume overload on exam.

While you were here:
- Your breathing and altered mental status improved.
- You had an infection in your belly that we treated with IV 
antibiotics
- You had some kidney injury that improved with IV albumin
- You had an EGD that showed varices and prior banding, along 
with some evidence of high blood pressures in the stomach.

When you leave the hospital, please:
- see below for medicine and followup appointments
- stick to a low salt diet and do not drink more than 2 liters 
of fluids per day
- weigh yourself every morning and call your doctor if your 
weight changes by more than 3 pounds in one day, or 5 pounds in 
one week.

It was a pleasure caring for you and we wish you the best,
Your ___ Team
 
Followup Instructions:
___